US09062015B2
FS702: (S)-2-Amino-3-hydroxy-1-{4-[6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]piperazin-1-yl}butan-1-one
200 mg (0.57 mmol) of 1-[6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-pyridin-2-yl]piperazine, 138 mg (0.629 mmol) of N-(tert-butoxycarbonyl)-L-threonine, 105 mg (0.69 mmol) of HOBt, 132 mg (0.69 mmol) of N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride and 291 μl (1.72 mmol) of DIPEA are dissolved in 5 ml of THF and stirred at room temperature for 18 h. The crude product was purified by column chromatography and silica gel, dissolved in dioxane, and an excess of 4N HCl in dioxane was added. The reaction mixture is stirred at room temperature for 12 h, evaporated and purified by means of preparative HPLC. The product is converted into the hydrochloride using methanolic HCl.

reactant | 1-[6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)-pyridin-2-yl]piperazine | 0.57 mmol, 200 mg | CC1(C=2C=CC(=CC2C(CC1)(C)C)C1=CC=CC(=N1)N1CCNCC1)C | C23H31N3
reactant | N-(tert-butoxycarbonyl)-L-threonine | 0.629 mmol, 138 mg | C(C)(C)(C)OC(=O)N[C@@H]([C@H](O)C)C(=O)O | C9H17NO5
reactant | HOBt | 0.69 mmol, 105 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-(3-dimethylaminopropyl)-N′-ethylcarbodiimide hydrochloride | 0.69 mmol, 132 mg | Cl.CN(CCCN=C=NCC)C
reactant | DIPEA | 1.72 mmol, 291 μl | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 5 ml | C1CCOC1 | C4H8O
product | (S)-2-Amino-3-hydroxy-1-{4-[6-(5,5,8,8-tetramethyl-5,6,7,8-tetrahydronaphthalen-2-yl)pyridin-2-yl]piperazin-1-yl}butan-1-one | N[C@H](C(=O)N1CCN(CC1)C1=NC(=CC=C1)C1=CC=2C(CCC(C2C=C1)(C)C)(C)C)C(C)O | C27H38N4O2
